US05753679
2.0 g (0.0093 mol) of 4-bromo-2-methylbenzoic acid were boiled under reflux in 15 ml (0.175 mol) of oxalyl chloride for 3 hrs. After removal of the excess oxalyl chloride the mixture was concentrated twice with 10 ml of toluene each time. The residue was dissolved in 15 ml of toluene, treated with 2.33 ml (0.01675 mol) of triethylamine and 2.67 g (0.01395 mol) of 1-benzyl-4-hydroxypiperidine and boiled at reflux for 18 hrs. After removal of the solvent the residue was chromatographed on silica gel with ethyl acetate/hexane (1:3). 2.12 g (59%) of 1-benzyl-piperidin-4-yl 4-bromo-2-methyl-benzoate were obtained as a yellow oil.

reactant | 4-bromo-2-methylbenzoic acid | 0.0093 mol, 2.0 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | oxalyl chloride | 0.175 mol, 15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 0.01675 mol, 2.33 ml | C(C)N(CC)CC | C6H15N
reactant | 1-benzyl-4-hydroxypiperidine | 0.01395 mol, 2.67 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
product | 1-benzyl-piperidin-4-yl 4-bromo-2-methyl-benzoate | 2.12 g, 59% | BrC1=CC(=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1)C | C20H22BrNO2
